US07732463B2
1-Bromo-2-(4-chloro-2-fluoro-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2p).
Prepared from 4-chloro-2-fluoro-1-iodo-benzene and 2-bromo-4-fluoro-benzenethiol.

reactant | 4-chloro-2-fluoro-1-iodo-benzene | ClC1=CC(=C(C=C1)I)F | C6H3ClFI
reactant | 2-bromo-4-fluoro-benzenethiol | BrC1=C(C=CC(=C1)F)S | C6H4BrFS
product | 1-Bromo-2-(4-chloro-2-fluoro-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)Cl)F | C12H6BrClF2S
